US05877191
(5R,6S,7S)-6-(4-Fluorophenyl)-3-(5-cyano-2-isopropoxy-phenyl)-1-oxaspiro[4.4]non-3-ene-7-methanol
The title compound was prepared following the procedure described in Example 6, Step F(d) using 3-bromo-4-isopropoxybenzonitrile and (5R,6S,7S)-6-(4-fluorophenyl)-3-(trimethylstannyl)-1-oxaspiro[4.4]non-3-ene-7-methanol as substrates for the cross-coupling reaction. 400 MHz 1H NMR (CD3OD): δ 1.28 (s, 3H), 1.31 (s, 3H), 1.70 (m, 1H), 2.18 (m, 2H), 2.72 (m, 1H), 2.82 (d, 1H), 3.37 (dd, 1H), 3.55 (dd, 1H), 4.05 (dd, 1H), 4.67 (dd, 1H), 4.70 (m, 1H), 6.35 (m, 1H), 6.92 (t, 2H), 7.07 (d, 1H), 7.30 (m, 2H), 7.38 (d, 1H), 7.52 (dd, 1H); Mass spec (NH3 /CI): 408 (M+1); 425 (M+NH3).

reactant | 3-bromo-4-isopropoxybenzonitrile | BrC=1C=C(C#N)C=CC1OC(C)C | C10H10BrNO
reactant | (5R,6S,7S)-6-(4-fluorophenyl)-3-(trimethylstannyl)-1-oxaspiro[4.4]non-3-ene-7-methanol | FC1=CC=C(C=C1)[C@H]1[C@@]2(C=C(CO2)[Sn](C)(C)C)CC[C@@H]1CO
reactant | NH3 | N | H3N
product | (5R,6S,7S)-6-(4-Fluorophenyl)-3-(5-cyano-2-isopropoxy-phenyl)-1-oxaspiro[4.4]non-3-ene-7-methanol | FC1=CC=C(C=C1)[C@H]1[C@]2(C=C(CO2)C2=C(C=CC(=C2)C#N)OC(C)C)CC[C@@H]1CO | C25H26FNO3
